* C:\Users\44736\Desktop\result\nodes_592.asc
R1 N564 N563 10
R2 N565 N564 10
C1 N566 N565 1u
R3 N566 N588 10
R4 N563 N587 10
R5 N588 N587 10
V1 N588 N587 SINE(0 2 1k)
L1 N588 N593 1m
R6 N588 N593 10
R7 N587 N593 10
R8 N567 N568 10
R9 N589 N588 10
V2 N589 N593 10
R10 N569 N570 10
R11 N570 N589 10
C2 N567 N566 1u
L2 N568 N569 1m
R12 N572 N571 10
R13 N573 N572 10
C3 N574 N573 1u
R14 N574 N590 10
R15 N571 N589 10
R16 N590 N589 10
V3 N590 N589 SINE(0 2 1k)
L3 N590 0 1m
R17 N590 0 10
R18 N589 0 10
R19 N575 N576 10
R20 N591 N590 10
V4 N591 0 10
R21 N577 N578 10
R22 N578 N591 10
C4 N575 N574 1u
L4 N576 N577 1m
R23 N580 N579 10
R24 N581 N580 10
C5 N582 N581 1u
R25 N582 N592 10
R26 N579 N591 10
R27 N592 N591 10
V5 N592 N591 SINE(0 2 1k)
L5 N592 N594 1m
R28 N592 N594 10
R29 N591 N594 10
R30 N583 N584 10
R31 N559 N592 10
V6 N559 N594 10
R32 N585 N586 10
R33 N586 N559 10
C6 N583 N582 1u
L6 N584 N585 1m
R34 N530 N527 10
R35 N531 N530 10
C7 N532 N531 1u
R36 N532 N554 10
R37 N527 N553 10
R38 N554 N553 10
V7 N554 N553 SINE(0 2 1k)
L7 N554 N560 1m
R39 N554 N560 10
R40 N553 N560 10
R41 N533 N534 10
R42 N555 N554 10
V8 N555 N560 10
R43 N535 N536 10
R44 N536 N555 10
C8 N533 N532 1u
L8 N534 N535 1m
R45 N538 N537 10
R46 N539 N538 10
C9 N540 N539 1u
R47 N540 N556 10
R48 N537 N555 10
R49 N556 N555 10
V9 N556 N555 SINE(0 2 1k)
L9 N556 N561 1m
R50 N556 N561 10
R51 N555 N561 10
R52 N541 N542 10
R53 N557 N556 10
V10 N557 N561 10
R54 N543 N544 10
R55 N544 N557 10
C10 N541 N540 1u
L10 N542 N543 1m
R56 N546 N545 10
R57 N547 N546 10
C11 N548 N547 1u
R58 N548 N558 10
R59 N545 N557 10
R60 N558 N557 10
V11 N558 N557 SINE(0 2 1k)
L11 N558 N562 1m
R61 N558 N562 10
R62 N557 N562 10
R63 N549 N550 10
R64 N559 N558 10
V12 N559 N562 10
R65 N551 N552 10
R66 N552 N559 10
C12 N549 N548 1u
L12 N550 N551 1m
R67 N498 N497 10
R68 N499 N498 10
C13 N500 N499 1u
R69 N500 N522 10
R70 N497 N521 10
R71 N522 N521 10
V13 N522 N521 SINE(0 2 1k)
L13 N522 N527 1m
R72 N522 N527 10
R73 N521 N527 10
R74 N501 N502 10
R75 N523 N522 10
V14 N523 N527 10
R76 N503 N504 10
R77 N504 N523 10
C14 N501 N500 1u
L14 N502 N503 1m
R78 N506 N505 10
R79 N507 N506 10
C15 N508 N507 1u
R80 N508 N524 10
R81 N505 N523 10
R82 N524 N523 10
V15 N524 N523 SINE(0 2 1k)
L15 N524 N528 1m
R83 N524 N528 10
R84 N523 N528 10
R85 N509 N510 10
R86 N525 N524 10
V16 N525 N528 10
R87 N511 N512 10
R88 N512 N525 10
C16 N509 N508 1u
L16 N510 N511 1m
R89 N514 N513 10
R90 N515 N514 10
C17 N516 N515 1u
R91 N516 N526 10
R92 N513 N525 10
R93 N526 N525 10
V17 N526 N525 SINE(0 2 1k)
L17 N526 N529 1m
R94 N526 N529 10
R95 N525 N529 10
R96 N517 N518 10
R97 N493 N526 10
V18 N493 N529 10
R98 N519 N520 10
R99 N520 N493 10
C18 N517 N516 1u
L18 N518 N519 1m
R100 N464 N455 10
R101 N465 N464 10
C19 N466 N465 1u
R102 N466 N488 10
R103 N455 N487 10
R104 N488 N487 10
V19 N488 N487 SINE(0 2 1k)
L19 N488 N494 1m
R105 N488 N494 10
R106 N487 N494 10
R107 N467 N468 10
R108 N489 N488 10
V20 N489 N494 10
R109 N469 N470 10
R110 N470 N489 10
C20 N467 N466 1u
L20 N468 N469 1m
R111 N472 N471 10
R112 N473 N472 10
C21 N474 N473 1u
R113 N474 N490 10
R114 N471 N489 10
R115 N490 N489 10
V21 N490 N489 SINE(0 2 1k)
L21 N490 N495 1m
R116 N490 N495 10
R117 N489 N495 10
R118 N475 N476 10
R119 N491 N490 10
V22 N491 N495 10
R120 N477 N478 10
R121 N478 N491 10
C22 N475 N474 1u
L22 N476 N477 1m
R122 N480 N479 10
R123 N481 N480 10
C23 N482 N481 1u
R124 N482 N492 10
R125 N479 N491 10
R126 N492 N491 10
V23 N492 N491 SINE(0 2 1k)
L23 N492 N496 1m
R127 N492 N496 10
R128 N491 N496 10
R129 N483 N484 10
R130 N493 N492 10
V24 N493 N496 10
R131 N485 N486 10
R132 N486 N493 10
C24 N483 N482 1u
L24 N484 N485 1m
R133 N432 N431 10
R134 N433 N432 10
C25 N434 N433 1u
R135 N434 N456 10
R136 N431 N455 10
R137 N456 N455 10
V25 N456 N455 SINE(0 2 1k)
L25 N456 N461 1m
R138 N456 N461 10
R139 N455 N461 10
R140 N435 N436 10
R141 N457 N456 10
V26 N457 N461 10
R142 N437 N438 10
R143 N438 N457 10
C26 N435 N434 1u
L26 N436 N437 1m
R144 N440 N439 10
R145 N441 N440 10
C27 N442 N441 1u
R146 N442 N458 10
R147 N439 N457 10
R148 N458 N457 10
V27 N458 N457 SINE(0 2 1k)
L27 N458 N462 1m
R149 N458 N462 10
R150 N457 N462 10
R151 N443 N444 10
R152 N459 N458 10
V28 N459 N462 10
R153 N445 N446 10
R154 N446 N459 10
C28 N443 N442 1u
L28 N444 N445 1m
R155 N448 N447 10
R156 N449 N448 10
C29 N450 N449 1u
R157 N450 N460 10
R158 N447 N459 10
R159 N460 N459 10
V29 N460 N459 SINE(0 2 1k)
L29 N460 N463 1m
R160 N460 N463 10
R161 N459 N463 10
R162 N451 N452 10
R163 N427 N460 10
V30 N427 N463 10
R164 N453 N454 10
R165 N454 N427 10
C30 N451 N450 1u
L30 N452 N453 1m
R166 N398 N395 10
R167 N399 N398 10
C31 N400 N399 1u
R168 N400 N422 10
R169 N395 N421 10
R170 N422 N421 10
V31 N422 N421 SINE(0 2 1k)
L31 N422 N428 1m
R171 N422 N428 10
R172 N421 N428 10
R173 N401 N402 10
R174 N423 N422 10
V32 N423 N428 10
R175 N403 N404 10
R176 N404 N423 10
C32 N401 N400 1u
L32 N402 N403 1m
R177 N406 N405 10
R178 N407 N406 10
C33 N408 N407 1u
R179 N408 N424 10
R180 N405 N423 10
R181 N424 N423 10
V33 N424 N423 SINE(0 2 1k)
L33 N424 N429 1m
R182 N424 N429 10
R183 N423 N429 10
R184 N409 N410 10
R185 N425 N424 10
V34 N425 N429 10
R186 N411 N412 10
R187 N412 N425 10
C34 N409 N408 1u
L34 N410 N411 1m
R188 N414 N413 10
R189 N415 N414 10
C35 N416 N415 1u
R190 N416 N426 10
R191 N413 N425 10
R192 N426 N425 10
V35 N426 N425 SINE(0 2 1k)
L35 N426 N430 1m
R193 N426 N430 10
R194 N425 N430 10
R195 N417 N418 10
R196 N427 N426 10
V36 N427 N430 10
R197 N419 N420 10
R198 N420 N427 10
C36 N417 N416 1u
L36 N418 N419 1m
R199 N366 N365 10
R200 N367 N366 10
C37 N368 N367 1u
R201 N368 N390 10
R202 N365 N389 10
R203 N390 N389 10
V37 N390 N389 SINE(0 2 1k)
L37 N390 N395 1m
R204 N390 N395 10
R205 N389 N395 10
R206 N369 N370 10
R207 N391 N390 10
V38 N391 N395 10
R208 N371 N372 10
R209 N372 N391 10
C38 N369 N368 1u
L38 N370 N371 1m
R210 N374 N373 10
R211 N375 N374 10
C39 N376 N375 1u
R212 N376 N392 10
R213 N373 N391 10
R214 N392 N391 10
V39 N392 N391 SINE(0 2 1k)
L39 N392 N396 1m
R215 N392 N396 10
R216 N391 N396 10
R217 N377 N378 10
R218 N393 N392 10
V40 N393 N396 10
R219 N379 N380 10
R220 N380 N393 10
C40 N377 N376 1u
L40 N378 N379 1m
R221 N382 N381 10
R222 N383 N382 10
C41 N384 N383 1u
R223 N384 N394 10
R224 N381 N393 10
R225 N394 N393 10
V41 N394 N393 SINE(0 2 1k)
L41 N394 N397 1m
R226 N394 N397 10
R227 N393 N397 10
R228 N385 N386 10
R229 N361 N394 10
V42 N361 N397 10
R230 N387 N388 10
R231 N388 N361 10
C42 N385 N384 1u
L42 N386 N387 1m
R232 N332 N323 10
R233 N333 N332 10
C43 N334 N333 1u
R234 N334 N356 10
R235 N323 N355 10
R236 N356 N355 10
V43 N356 N355 SINE(0 2 1k)
L43 N356 N362 1m
R237 N356 N362 10
R238 N355 N362 10
R239 N335 N336 10
R240 N357 N356 10
V44 N357 N362 10
R241 N337 N338 10
R242 N338 N357 10
C44 N335 N334 1u
L44 N336 N337 1m
R243 N340 N339 10
R244 N341 N340 10
C45 N342 N341 1u
R245 N342 N358 10
R246 N339 N357 10
R247 N358 N357 10
V45 N358 N357 SINE(0 2 1k)
L45 N358 N363 1m
R248 N358 N363 10
R249 N357 N363 10
R250 N343 N344 10
R251 N359 N358 10
V46 N359 N363 10
R252 N345 N346 10
R253 N346 N359 10
C46 N343 N342 1u
L46 N344 N345 1m
R254 N348 N347 10
R255 N349 N348 10
C47 N350 N349 1u
R256 N350 N360 10
R257 N347 N359 10
R258 N360 N359 10
V47 N360 N359 SINE(0 2 1k)
L47 N360 N364 1m
R259 N360 N364 10
R260 N359 N364 10
R261 N351 N352 10
R262 N361 N360 10
V48 N361 N364 10
R263 N353 N354 10
R264 N354 N361 10
C48 N351 N350 1u
L48 N352 N353 1m
R265 N300 N299 10
R266 N301 N300 10
C49 N302 N301 1u
R267 N302 N324 10
R268 N299 N323 10
R269 N324 N323 10
V49 N324 N323 SINE(0 2 1k)
L49 N324 N329 1m
R270 N324 N329 10
R271 N323 N329 10
R272 N303 N304 10
R273 N325 N324 10
V50 N325 N329 10
R274 N305 N306 10
R275 N306 N325 10
C50 N303 N302 1u
L50 N304 N305 1m
R276 N308 N307 10
R277 N309 N308 10
C51 N310 N309 1u
R278 N310 N326 10
R279 N307 N325 10
R280 N326 N325 10
V51 N326 N325 SINE(0 2 1k)
L51 N326 N330 1m
R281 N326 N330 10
R282 N325 N330 10
R283 N311 N312 10
R284 N327 N326 10
V52 N327 N330 10
R285 N313 N314 10
R286 N314 N327 10
C52 N311 N310 1u
L52 N312 N313 1m
R287 N316 N315 10
R288 N317 N316 10
C53 N318 N317 1u
R289 N318 N328 10
R290 N315 N327 10
R291 N328 N327 10
V53 N328 N327 SINE(0 2 1k)
L53 N328 N331 1m
R292 N328 N331 10
R293 N327 N331 10
R294 N319 N320 10
R295 N295 N328 10
V54 N295 N331 10
R296 N321 N322 10
R297 N322 N295 10
C54 N319 N318 1u
L54 N320 N321 1m
R298 N266 N263 10
R299 N267 N266 10
C55 N268 N267 1u
R300 N268 N290 10
R301 N263 N289 10
R302 N290 N289 10
V55 N290 N289 SINE(0 2 1k)
L55 N290 N296 1m
R303 N290 N296 10
R304 N289 N296 10
R305 N269 N270 10
R306 N291 N290 10
V56 N291 N296 10
R307 N271 N272 10
R308 N272 N291 10
C56 N269 N268 1u
L56 N270 N271 1m
R309 N274 N273 10
R310 N275 N274 10
C57 N276 N275 1u
R311 N276 N292 10
R312 N273 N291 10
R313 N292 N291 10
V57 N292 N291 SINE(0 2 1k)
L57 N292 N297 1m
R314 N292 N297 10
R315 N291 N297 10
R316 N277 N278 10
R317 N293 N292 10
V58 N293 N297 10
R318 N279 N280 10
R319 N280 N293 10
C58 N277 N276 1u
L58 N278 N279 1m
R320 N282 N281 10
R321 N283 N282 10
C59 N284 N283 1u
R322 N284 N294 10
R323 N281 N293 10
R324 N294 N293 10
V59 N294 N293 SINE(0 2 1k)
L59 N294 N298 1m
R325 N294 N298 10
R326 N293 N298 10
R327 N285 N286 10
R328 N295 N294 10
V60 N295 N298 10
R329 N287 N288 10
R330 N288 N295 10
C60 N285 N284 1u
L60 N286 N287 1m
R331 N234 N233 10
R332 N235 N234 10
C61 N236 N235 1u
R333 N236 N258 10
R334 N233 N257 10
R335 N258 N257 10
V61 N258 N257 SINE(0 2 1k)
L61 N258 N263 1m
R336 N258 N263 10
R337 N257 N263 10
R338 N237 N238 10
R339 N259 N258 10
V62 N259 N263 10
R340 N239 N240 10
R341 N240 N259 10
C62 N237 N236 1u
L62 N238 N239 1m
R342 N242 N241 10
R343 N243 N242 10
C63 N244 N243 1u
R344 N244 N260 10
R345 N241 N259 10
R346 N260 N259 10
V63 N260 N259 SINE(0 2 1k)
L63 N260 N264 1m
R347 N260 N264 10
R348 N259 N264 10
R349 N245 N246 10
R350 N261 N260 10
V64 N261 N264 10
R351 N247 N248 10
R352 N248 N261 10
C64 N245 N244 1u
L64 N246 N247 1m
R353 N250 N249 10
R354 N251 N250 10
C65 N252 N251 1u
R355 N252 N262 10
R356 N249 N261 10
R357 N262 N261 10
V65 N262 N261 SINE(0 2 1k)
L65 N262 N265 1m
R358 N262 N265 10
R359 N261 N265 10
R360 N253 N254 10
R361 N229 N262 10
V66 N229 N265 10
R362 N255 N256 10
R363 N256 N229 10
C66 N253 N252 1u
L66 N254 N255 1m
R364 N200 N191 10
R365 N201 N200 10
C67 N202 N201 1u
R366 N202 N224 10
R367 N191 N223 10
R368 N224 N223 10
V67 N224 N223 SINE(0 2 1k)
L67 N224 N230 1m
R369 N224 N230 10
R370 N223 N230 10
R371 N203 N204 10
R372 N225 N224 10
V68 N225 N230 10
R373 N205 N206 10
R374 N206 N225 10
C68 N203 N202 1u
L68 N204 N205 1m
R375 N208 N207 10
R376 N209 N208 10
C69 N210 N209 1u
R377 N210 N226 10
R378 N207 N225 10
R379 N226 N225 10
V69 N226 N225 SINE(0 2 1k)
L69 N226 N231 1m
R380 N226 N231 10
R381 N225 N231 10
R382 N211 N212 10
R383 N227 N226 10
V70 N227 N231 10
R384 N213 N214 10
R385 N214 N227 10
C70 N211 N210 1u
L70 N212 N213 1m
R386 N216 N215 10
R387 N217 N216 10
C71 N218 N217 1u
R388 N218 N228 10
R389 N215 N227 10
R390 N228 N227 10
V71 N228 N227 SINE(0 2 1k)
L71 N228 N232 1m
R391 N228 N232 10
R392 N227 N232 10
R393 N219 N220 10
R394 N229 N228 10
V72 N229 N232 10
R395 N221 N222 10
R396 N222 N229 10
C72 N219 N218 1u
L72 N220 N221 1m
R397 N168 N167 10
R398 N169 N168 10
C73 N170 N169 1u
R399 N170 N192 10
R400 N167 N191 10
R401 N192 N191 10
V73 N192 N191 SINE(0 2 1k)
L73 N192 N197 1m
R402 N192 N197 10
R403 N191 N197 10
R404 N171 N172 10
R405 N193 N192 10
V74 N193 N197 10
R406 N173 N174 10
R407 N174 N193 10
C74 N171 N170 1u
L74 N172 N173 1m
R408 N176 N175 10
R409 N177 N176 10
C75 N178 N177 1u
R410 N178 N194 10
R411 N175 N193 10
R412 N194 N193 10
V75 N194 N193 SINE(0 2 1k)
L75 N194 N198 1m
R413 N194 N198 10
R414 N193 N198 10
R415 N179 N180 10
R416 N195 N194 10
V76 N195 N198 10
R417 N181 N182 10
R418 N182 N195 10
C76 N179 N178 1u
L76 N180 N181 1m
R419 N184 N183 10
R420 N185 N184 10
C77 N186 N185 1u
R421 N186 N196 10
R422 N183 N195 10
R423 N196 N195 10
V77 N196 N195 SINE(0 2 1k)
L77 N196 N199 1m
R424 N196 N199 10
R425 N195 N199 10
R426 N187 N188 10
R427 N163 N196 10
V78 N163 N199 10
R428 N189 N190 10
R429 N190 N163 10
C78 N187 N186 1u
L78 N188 N189 1m
R430 N134 N131 10
R431 N135 N134 10
C79 N136 N135 1u
R432 N136 N158 10
R433 N131 N157 10
R434 N158 N157 10
V79 N158 N157 SINE(0 2 1k)
L79 N158 N164 1m
R435 N158 N164 10
R436 N157 N164 10
R437 N137 N138 10
R438 N159 N158 10
V80 N159 N164 10
R439 N139 N140 10
R440 N140 N159 10
C80 N137 N136 1u
L80 N138 N139 1m
R441 N142 N141 10
R442 N143 N142 10
C81 N144 N143 1u
R443 N144 N160 10
R444 N141 N159 10
R445 N160 N159 10
V81 N160 N159 SINE(0 2 1k)
L81 N160 N165 1m
R446 N160 N165 10
R447 N159 N165 10
R448 N145 N146 10
R449 N161 N160 10
V82 N161 N165 10
R450 N147 N148 10
R451 N148 N161 10
C82 N145 N144 1u
L82 N146 N147 1m
R452 N150 N149 10
R453 N151 N150 10
C83 N152 N151 1u
R454 N152 N162 10
R455 N149 N161 10
R456 N162 N161 10
V83 N162 N161 SINE(0 2 1k)
L83 N162 N166 1m
R457 N162 N166 10
R458 N161 N166 10
R459 N153 N154 10
R460 N163 N162 10
V84 N163 N166 10
R461 N155 N156 10
R462 N156 N163 10
C84 N153 N152 1u
L84 N154 N155 1m
R463 N102 N101 10
R464 N103 N102 10
C85 N104 N103 1u
R465 N104 N126 10
R466 N101 N125 10
R467 N126 N125 10
V85 N126 N125 SINE(0 2 1k)
L85 N126 N131 1m
R468 N126 N131 10
R469 N125 N131 10
R470 N105 N106 10
R471 N127 N126 10
V86 N127 N131 10
R472 N107 N108 10
R473 N108 N127 10
C86 N105 N104 1u
L86 N106 N107 1m
R474 N110 N109 10
R475 N111 N110 10
C87 N112 N111 1u
R476 N112 N128 10
R477 N109 N127 10
R478 N128 N127 10
V87 N128 N127 SINE(0 2 1k)
L87 N128 N132 1m
R479 N128 N132 10
R480 N127 N132 10
R481 N113 N114 10
R482 N129 N128 10
V88 N129 N132 10
R483 N115 N116 10
R484 N116 N129 10
C88 N113 N112 1u
L88 N114 N115 1m
R485 N118 N117 10
R486 N119 N118 10
C89 N120 N119 1u
R487 N120 N130 10
R488 N117 N129 10
R489 N130 N129 10
V89 N130 N129 SINE(0 2 1k)
L89 N130 N133 1m
R490 N130 N133 10
R491 N129 N133 10
R492 N121 N122 10
R493 N097 N130 10
V90 N097 N133 10
R494 N123 N124 10
R495 N124 N097 10
C90 N121 N120 1u
L90 N122 N123 1m
R496 N068 N059 10
R497 N069 N068 10
C91 N070 N069 1u
R498 N070 N092 10
R499 N059 N091 10
R500 N092 N091 10
V91 N092 N091 SINE(0 2 1k)
L91 N092 N098 1m
R501 N092 N098 10
R502 N091 N098 10
R503 N071 N072 10
R504 N093 N092 10
V92 N093 N098 10
R505 N073 N074 10
R506 N074 N093 10
C92 N071 N070 1u
L92 N072 N073 1m
R507 N076 N075 10
R508 N077 N076 10
C93 N078 N077 1u
R509 N078 N094 10
R510 N075 N093 10
R511 N094 N093 10
V93 N094 N093 SINE(0 2 1k)
L93 N094 N099 1m
R512 N094 N099 10
R513 N093 N099 10
R514 N079 N080 10
R515 N095 N094 10
V94 N095 N099 10
R516 N081 N082 10
R517 N082 N095 10
C94 N079 N078 1u
L94 N080 N081 1m
R518 N084 N083 10
R519 N085 N084 10
C95 N086 N085 1u
R520 N086 N096 10
R521 N083 N095 10
R522 N096 N095 10
V95 N096 N095 SINE(0 2 1k)
L95 N096 N100 1m
R523 N096 N100 10
R524 N095 N100 10
R525 N087 N088 10
R526 N097 N096 10
V96 N097 N100 10
R527 N089 N090 10
R528 N090 N097 10
C96 N087 N086 1u
L96 N088 N089 1m
R529 N036 N035 10
R530 N037 N036 10
C97 N038 N037 1u
R531 N038 N060 10
R532 N035 N059 10
R533 N060 N059 10
V97 N060 N059 SINE(0 2 1k)
L97 N060 N065 1m
R534 N060 N065 10
R535 N059 N065 10
R536 N039 N040 10
R537 N061 N060 10
V98 N061 N065 10
R538 N041 N042 10
R539 N042 N061 10
C98 N039 N038 1u
L98 N040 N041 1m
R540 N044 N043 10
R541 N045 N044 10
C99 N046 N045 1u
R542 N046 N062 10
R543 N043 N061 10
R544 N062 N061 10
V99 N062 N061 SINE(0 2 1k)
L99 N062 N066 1m
R545 N062 N066 10
R546 N061 N066 10
R547 N047 N048 10
R548 N063 N062 10
V100 N063 N066 10
R549 N049 N050 10
R550 N050 N063 10
C100 N047 N046 1u
L100 N048 N049 1m
R551 N052 N051 10
R552 N053 N052 10
C101 N054 N053 1u
R553 N054 N064 10
R554 N051 N063 10
R555 N064 N063 10
V101 N064 N063 SINE(0 2 1k)
L101 N064 N067 1m
R556 N064 N067 10
R557 N063 N067 10
R558 N055 N056 10
R559 N031 N064 10
V102 N031 N067 10
R560 N057 N058 10
R561 N058 N031 10
C102 N055 N054 1u
L102 N056 N057 1m
R562 N002 N001 10
R563 N003 N002 10
C103 N004 N003 1u
R564 N004 N026 10
R565 N001 N025 10
R566 N026 N025 10
V103 N026 N025 SINE(0 2 1k)
L103 N026 N032 1m
R567 N026 N032 10
R568 N025 N032 10
R569 N005 N006 10
R570 N027 N026 10
V104 N027 N032 10
R571 N007 N008 10
R572 N008 N027 10
C104 N005 N004 1u
L104 N006 N007 1m
R573 N010 N009 10
R574 N011 N010 10
C105 N012 N011 1u
R575 N012 N028 10
R576 N009 N027 10
R577 N028 N027 10
V105 N028 N027 SINE(0 2 1k)
L105 N028 N033 1m
R578 N028 N033 10
R579 N027 N033 10
R580 N013 N014 10
R581 N029 N028 10
V106 N029 N033 10
R582 N015 N016 10
R583 N016 N029 10
C106 N013 N012 1u
L106 N014 N015 1m
R584 N018 N017 10
R585 N019 N018 10
C107 N020 N019 1u
R586 N020 N030 10
R587 N017 N029 10
R588 N030 N029 10
V107 N030 N029 SINE(0 2 1k)
L107 N030 N034 1m
R589 N030 N034 10
R590 N029 N034 10
R591 N021 N022 10
R592 N031 N030 10
V108 N031 N034 10
R593 N023 N024 10
R594 N024 N031 10
C108 N021 N020 1u
L108 N022 N023 1m
.tran 0 20ms 0 0.01ms
.backanno
.end
