* C:\Users\44736\Desktop\result\nodes_64.asc
R1 N036 N035 10
R2 N037 N036 10
C1 N038 N037 1u
R3 N038 N060 10
R4 N035 N059 10
R5 N060 N059 10
V1 N060 N059 SINE(0 2 1k)
L1 N060 N065 1m
R6 N060 N065 10
R7 N059 N065 10
R8 N039 N040 10
R9 N061 N060 10
V2 N061 N065 10
R10 N041 N042 10
R11 N042 N061 10
C2 N039 N038 1u
L2 N040 N041 1m
R12 N044 N043 10
R13 N045 N044 10
C3 N046 N045 1u
R14 N046 N062 10
R15 N043 N061 10
R16 N062 N061 10
V3 N062 N061 SINE(0 2 1k)
L3 N062 0 1m
R17 N062 0 10
R18 N061 0 10
R19 N047 N048 10
R20 N063 N062 10
V4 N063 0 10
R21 N049 N050 10
R22 N050 N063 10
C4 N047 N046 1u
L4 N048 N049 1m
R23 N052 N051 10
R24 N053 N052 10
C5 N054 N053 1u
R25 N054 N064 10
R26 N051 N063 10
R27 N064 N063 10
V5 N064 N063 SINE(0 2 1k)
L5 N064 N066 1m
R28 N064 N066 10
R29 N063 N066 10
R30 N055 N056 10
R31 N031 N064 10
V6 N031 N066 10
R32 N057 N058 10
R33 N058 N031 10
C6 N055 N054 1u
L6 N056 N057 1m
R34 N002 N001 10
R35 N003 N002 10
C7 N004 N003 1u
R36 N004 N026 10
R37 N001 N025 10
R38 N026 N025 10
V7 N026 N025 SINE(0 2 1k)
L7 N026 N032 1m
R39 N026 N032 10
R40 N025 N032 10
R41 N005 N006 10
R42 N027 N026 10
V8 N027 N032 10
R43 N007 N008 10
R44 N008 N027 10
C8 N005 N004 1u
L8 N006 N007 1m
R45 N010 N009 10
R46 N011 N010 10
C9 N012 N011 1u
R47 N012 N028 10
R48 N009 N027 10
R49 N028 N027 10
V9 N028 N027 SINE(0 2 1k)
L9 N028 N033 1m
R50 N028 N033 10
R51 N027 N033 10
R52 N013 N014 10
R53 N029 N028 10
V10 N029 N033 10
R54 N015 N016 10
R55 N016 N029 10
C10 N013 N012 1u
L10 N014 N015 1m
R56 N018 N017 10
R57 N019 N018 10
C11 N020 N019 1u
R58 N020 N030 10
R59 N017 N029 10
R60 N030 N029 10
V11 N030 N029 SINE(0 2 1k)
L11 N030 N034 1m
R61 N030 N034 10
R62 N029 N034 10
R63 N021 N022 10
R64 N031 N030 10
V12 N031 N034 10
R65 N023 N024 10
R66 N024 N031 10
C12 N021 N020 1u
L12 N022 N023 1m
.tran 0 20ms 0 0.01ms
.backanno
.end
